US07160335B2
B. 1,5-Bis(mesitylamino)-3,7-bis(phenylmercapto)-anthraquinone
16.5 g of 1,5-bis(mesitylamino)-3,7-dibromoanthraquinone are suspended at RT in 50 ml of DMF and heated to 120° C. After cooling to 50° C., a suspension of 8.5 g of sodium thiophenolate in 25 ml of DMF is added thereto. The mixture is then heated to 120° C. again and stirred at that temperature for 1.5 hours. After cooling the mixture to 60° C., 100 ml of methanol are added and the mixture is stirred overnight at RT. The precipitate is filtered off, washed with a methanol/water mixture (1:1) and dried in vacuo.

reactant | 1,5-bis(mesitylamino)-3,7-dibromoanthraquinone | 16.5 g | C1(=C(C(=CC(=C1)C)C)NC1=CC(=CC=2C(C3=C(C=C(C=C3C(C12)=O)Br)NC1=C(C=C(C=C1C)C)C)=O)Br)C | C32H28Br2N2O2
reactant | sodium thiophenolate | 8.5 g | C1(=CC=CC=C1)[S-].[Na+]
reactant | methanol | 100 ml | CO | CH4O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 1,5-Bis(mesitylamino)-3,7-bis(phenylmercapto)-anthraquinone | C1(=C(C(=CC(=C1)C)C)NC1=CC(=CC=2C(C3=C(C=C(C=C3C(C12)=O)SC1=CC=CC=C1)NC1=C(C=C(C=C1C)C)C)=O)SC1=CC=CC=C1)C | C44H38N2O2S2
